US08835598B2
1-Iodo-2-hexyldecane (1)
Under air, triphenylphosphine (107.44 g, 410 mmol, 1.19 equiv.) and imidazole (28.9 g, 424 mmol, 1.23 equiv.) were dissolved in dichloromethane (800 mL). 2-Hexyl-1-decanol (100 mL, 345 mmol., 1.00 equiv.) was added to the solution, and the reaction mixture was cooled to 0° C. Iodine (103.6 g, 408 mmol., 1.18 equiv.) was added portion-wise over 1 hour, after which the suspension was stirred at 0° C. for an additional hour, and then at ambient temperature for 18 hours. The mixture was quenched with saturated aqueous Na2SO3 (150 mL), and DCM was removed in vacuo. Hexane (200 mL) was added to the residue, and the mixture was filtered to remove salts that had precipitated. The organic material was extracted with hexanes (3×300 mL), dried over Na2SO4, filtered through a pad of silica gel, and then concentrated in vacuo to give a clear, colorless oil (97.8 g, 82% yield). 1H NMR (500 MHz, CDCl3) δ 3.28 (d, J=4.6 Hz, 2H), 1.34-1.19 (m, 24H), 1.12 (b, 1H), 0.91-0.87 (m, 6H).

reactant | triphenylphosphine | 410 mmol, 107.44 g, 1.19 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 424 mmol, 28.9 g, 1.23 equiv. | N1C=NC=C1 | C3H4N2
reactant | 2-Hexyl-1-decanol | 345 mmol, 100 mL, 1.00 equiv. | C(CCCCC)C(CO)CCCCCCCC | C16H34O
reactant | Iodine | 408 mmol, 103.6 g, 1.18 equiv. | II | I2
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | 1-Iodo-2-hexyldecane | 97.8 g, 82% yield | ICC(CCCCCCCC)CCCCCC | C16H33I
